Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Iodinated Contrast- Oral and IV Dye / morphine / Dilaudid
 
Attending: ___.
 
Chief Complaint:
LEFT ___ A Periprosthetic Femur Fracture
 
Major Surgical or Invasive Procedure:
Open Reduction internal fixation of LEFT Femur Fracture on ___ 
by Dr. ___
 
___ of Present Illness:
___ female presents with the above injury s/p
twisting moment.  Patient was previously admitted to the outside
hospital for management of new atrial fibrillation.  States she
was looking out the window and turned on her leg, twisting, when
she heard a crack in her hip.  Immediately had pain.  Denies 
head
strike or loss of consciousness with fall.  Denies any 
antecedent
hip pain.  Patient initially had left hip arthroplasty done in
___, which had to be revised in ___ for dislocation.  The
original surgery was done at the ___, and the second
surgery done at ___.  Denies any numbness or
paresthesias.  Denies any chest pain or shortness of breath. 
Denies abdominal pain.  Denies nausea.
 
Past Medical History:
Type 2 diabetes
Hypothyroidism
Anxiety               
 
Social History:
___
Family History:
No Family History taken on this encounter
 
Physical Exam:
Condition on Discharge:

Well appearing in no acute distress  
 Afebrile with stable vital signs  
 Pain well-controlled  
 Respiratory: CTAB  

 Gastrointestinal: NT/ND  
 Genitourinary: Voiding independently, no dysuria 
 Neurologic: Intact with no focal deficits  
 Psychiatric: Pleasant, A&O x3  
 Musculoskeletal Lower Extremity:  

From Orthopaedic perspective:
Left lower extremity:
- Dressing with SS staining, dry
- Incision healing well
- Thigh full; appropriately tender
- No calf tenderness
- Toes warm
- ___ fire
- SILT SPN/DPN/TN/saphenous/sural distributions
- 1+ ___ pulses, foot warm and well-perfused

Cardiovascular: New onset Atrial fibrilation during this 
encounter, patient tachycardic from 100-120 with escape to 
130's, SBP 110/67. Patient denies shortness of breath, 
dizziness, weakness

 
Pertinent Results:
___ 07:33AM BLOOD WBC-13.9* RBC-3.46* Hgb-7.8* Hct-28.7* 
MCV-83 MCH-22.5* MCHC-27.2* RDW-19.0* RDWSD-55.4* Plt ___
___ 07:33AM BLOOD ___ PTT-60.8* ___
___ 10:18AM BLOOD ___ PTT-56.8* ___
___ 07:20AM BLOOD ___ PTT-45.7* ___
___ 10:18AM BLOOD WBC-14.7* RBC-3.21* Hgb-7.8* Hct-27.3* 
MCV-85 MCH-24.3* MCHC-28.6* RDW-18.9* RDWSD-54.0* Plt ___
___ 07:20AM BLOOD WBC-14.5* RBC-3.26* Hgb-7.5* Hct-27.3* 
MCV-84 MCH-23.0* MCHC-27.5* RDW-18.0* RDWSD-53.6* Plt ___
___ 07:33AM BLOOD Glucose-172* UreaN-22* Creat-0.5 Na-140 
K-5.4 Cl-102 HCO3-29 AnGap-9*
 
Brief Hospital Course:
The patient presented to the emergency department and was 
 evaluated by the orthopedic surgery team. The patient was found 

 to have LEFT Periprothetic (___) fx of the femur and 
was admitted to the orthopedic surgery service.  The patient was 
taken to the operating room on  for 
 Open Reduction Internal Fixation of LEFT Femur, which the 
patient tolerated well (for full details please  see the 
separately dictated operative report). The patient was 
 taken from the OR to the PACU in stable condition and after 
 recovery from anesthesia was transferred to the floor.  The 
 patient was initially given IV fluids and IV pain medications, 
 and progressed to a diabetic  diet and oral medications by 
 POD#1. The patient was given perioperative antibiotics and 
 anticoagulation per routine.  The patients home medications 
were 
 continued throughout this hospitalization. The patient worked 
 with ___ who determined that discharge to Rehab was appropriate. 
 

Cardiology was consulted throughout this ___ hospital 
course for management of acute atrial fibrillation with RVR. 
Their medication regimen was followed as directed and the 
patient was discharged on 125 metoprolol XL with 0.25mg digoxin 
qday after a loading dose. The patient's hospitalization and new 
onset atrial fibrillation was communicated to the patient's 
primary cardiologist Dr. ___.

Infectious disease was consulted when there was a possible 
contaminant v. infection from intraoperative cultures. Per Dr. 
___ was intraoperative concern for infection, however 
infectious disease believe this is more consistent with a 
contaminant rather than true infection. The decision was made 
that as her stem was still in the femur to continue to monitor 
outpatient and to evaluate for possible revision surgery at a 
later date. 

The ___ hospital course was remarkable for new onset 
atrial fibrilation after surgery.  At the time of discharge the 
patient was afebrile, tachycardic to 114 with SBP 110/67, pain 
was well  controlled with oral medications, incisions were  
clean/dry/intact, and the patient was voiding/moving bowels  
spontaneously.
The patient is touch down weight bearing in the lower LEFT 
extremity,  and will be discharged on warfarin with goal INR 
2.0-3.0. The patient  will follow up in two weeks per routine 
with orthopaedics. For her atrial fibrilation she will need to 
schedule a follow-up appointment wiht outpatient cardiologist 
Dr. ___ for ___ management of this condition. She 
will also need to establish care for ___ clinic when 
discharged from rehab facility.  A thorough discussion  was had 
with the patient regarding the diagnosis and expected  
post-discharge course, and all questions were answered prior to  
discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ALPRAZolam 0.5 mg PO QHS:PRN Anxiety/Insmnia 
2. Aspirin 325 mg PO DAILY 
3. Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation BID 
4. Furosemide 20 mg PO BID 
5. Glargine 40 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
6. Levothyroxine Sodium 75 mcg PO DAILY 
7. Ranitidine 150 mg PO QHS 
8. Sertraline 50 mg PO DAILY 
9. Timolol Maleate 0.5% 1 DROP LEFT EYE BID 
10. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP LEFT EYE BID 
11. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
Do not take more than 4000mg acetaminophen in 24hrs 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*75 Tablet Refills:*0 
2.  Bisacodyl 10 mg PO DAILY:PRN Constipation - Second Line 
RX *bisacodyl [Dulcolax (bisacodyl)] 5 mg 1 tablet(s) by mouth 
as needed for constipation Disp #*10 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*50 Capsule Refills:*0 
4.  Enoxaparin Sodium 90 mg SC BID afib bridging to warfarin 
RX *enoxaparin 100 mg/mL 100 mg SC twice a day Disp #*30 Syringe 
Refills:*0
RX *enoxaparin 100 mg/mL 90 mg SC twice a day until INR at goal 
Disp #*20 Syringe Refills:*0 
5.  Metoprolol Succinate XL 125 mg PO DAILY 
Hold for SBP<90 
RX *metoprolol succinate 25 mg 5 tablet(s) by mouth once a day 
Disp #*100 Tablet Refills:*0 
6.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line 
RX *polyethylene glycol 3350 [Miralax] 17 gram/dose 1 dose by 
mouth daily for constipation Refills:*0 
7.  TraMADol 50-100 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg ___ tablet(s) by mouth every ___ hours as 
needed for pain Disp #*20 Tablet Refills:*0 
8.  TraMADol 50-100 mg PO Q6H:PRN Pain - Moderate 
patient may refuse or request partial fill   
9.  Warfarin 5 mg PO ONCE Duration: 1 Dose 
Patient needs to have INR monitored while transitioning to 
warfarin, target INR 2.0-3.0  
10.  Warfarin 5 mg PO DAILY Duration: 1 Dose 
RX *warfarin 5 mg 1 tablet(s) by mouth once a day Disp #*60 
Tablet Refills:*0 
11.  Aspirin 81 mg PO DAILY 
Consult your cardiologist regarding aspirin dose. Resumed at 81 
for cardioprotection.   
12.  Glargine 40 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin 
13.  ALPRAZolam 0.5 mg PO QHS:PRN Anxiety/Insmnia  
14.  Furosemide 20 mg PO BID  
15.  Levothyroxine Sodium 75 mcg PO DAILY  
16.  MetFORMIN XR (Glucophage XR) 500 mg PO DAILY  
17.  PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP LEFT EYE BID  
18.  Ranitidine 150 mg PO QHS  
19.  Sertraline 50 mg PO DAILY  
20.  Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation BID  
21.  Timolol Maleate 0.5% 1 DROP LEFT EYE BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
L ___ periprosthetic femur fracture
New-onset atrial fibrillation at ___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Discharge Instructions:

INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:

- You were in the hospital for orthopedic surgery. It is normal 
to feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- Toe down weight bearing left lower extremity, range of motion 
as tolerated at hip

MEDICATIONS:
  1)  Take Tylenol ___ every 6 hours around the clock. This is 
an over the counter medication.
  2)  Add  tramadol 50-100mg every 6 hours as needed for 
increased pain. Aim to wean off this medication in 1 week or 
sooner.  This is an example on how to wean down:
Take 1 tablet every 3 hours as needed x 1 day,
then 1 tablet every 4 hours as needed x 1 day,
then 1 tablet every 6 hours as needed x 1 day,
then 1 tablet every 8 hours as needed x 2 days, 
then 1 tablet every 12 hours as needed x 1 day,
then 1 tablet every before bedtime as needed x 1 day.  
Then continue with Tylenol for pain.
  3)  Do not stop the Tylenol until you are off of the narcotic 
medication.
  4)  Per state regulations, we are limited in the amount of 
narcotics we can prescribe. If you require more, you must 
contact the office to set up an appointment because we cannot 
refill this type of pain medication over the phone. 
  5)  Narcotic pain relievers can cause constipation, so you 
should drink eight 8oz glasses of water daily and continue 
following the bowel regimen as stated on your medication 
prescription list. These meds (senna, colace, miralax) are over 
the counter and may be obtained at any pharmacy.
  6)  Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
  7)  Please take all medications as prescribed by your 
physicians at discharge.
  8)  Continue all home medications unless specifically 
instructed to stop by your surgeon.
      
ANTICOAGULATION:
- You are being transitioned to warfarin. It is important to 
have your blood levels ___, PTT, INR) monitored during this 
time, and to set up an appointment with your primary care 
cardiologist Dr. ___ in the next ___ weeks. You are 
taking lovenox 90mg twice a day subcutaneously until your 
warfarin is therapeutic as judged by a INR of 2.0-3.0. You will 
need to follow up with a ___ clinic to track these values 
when you leave the rehab facility. 

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- Incision may be left open to air unless actively draining. If 
draining, you may apply a gauze dressing secured with paper 
tape.
- If you have a splint in place, splint must be left on until 
follow up appointment unless otherwise instructed. Do NOT get 
splint wet.

DANGER SIGNS:
Please call your PCP or surgeon's office and/or return to the 
emergency department if you experience any of the following:
- Increasing pain that is not controlled with pain medications
- Increasing redness, swelling, drainage, or other concerning 
changes in your incision
- Persistent or increasing numbness, tingling, or loss of 
sensation
- Fever > 101.4
- Shaking chills
- Chest pain
- Shortness of breath
- Nausea or vomiting with an inability to keep food, liquid, 
medications down
- Any other medical concerns

Please restart your home medications 

THIS PATIENT IS EXPECTED TO REQUIRE <30 DAYS OF REHAB

 
Followup Instructions:
___